US09145433B2
3-Amino-6-bromopyridazine (5.0 g, 28.7 mmol) was heated and stirred with dimethylformamide dimethylacetal (5.36 g, 6.0 mL, 45.0 mmol) under nitrogen at 110° C. for 3 h. The brown homogeneous reaction mixture was cooled to room temperature. The resulting heterogeneous slurry was stirred in EtOAc/hexanes (1:1, 75 mL) and filtered. The filtered solid was suction dried to obtain apparently (E)-N′-(6-bromopyridazin-3-yl)-N,N-dimethylformimidamide (4.9 g) as a pale pink crystalline solid. 1H NMR (300 MHz, DMSO-d6) δ 8.45 (s, 1H), 7.64 (d, J=9.1 Hz, 1H), 7.03 (d, J=9.1 Hz, 1H), 3.11 (s, 3H), 3.00 (s, 3H).

reactant | 3-Amino-6-bromopyridazine | 28.7 mmol, 5.0 g | NC=1N=NC(=CC1)Br | C4H4BrN3
reactant | dimethylformamide dimethylacetal | 45.0 mmol, 6.0 mL, 5.36 g | COC(N(C)C)OC | C5H13NO2
product | (E)-N′-(6-bromopyridazin-3-yl)-N,N-dimethylformimidamide | 4.9 g | BrC1=CC=C(N=N1)/N=C/N(C)C | C7H9BrN4
